US08461158B2
A suspension of 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-[1-(methylsulfonyl)-3-piperidinyl]-6-(4-morpholinyl)-N-[3-(4-morpholinyl)propyl]-1,3,5-triazin-2-amine from the previous step in MeOH (20 mL) was treated with a slight excess of 1.25 M HCl in MeOH (1.1 equiv.) to give a clear solution. The solvent was removed under vacuum and the residue was washed with EtOAc to give 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-[1-(methylsulfonyl)-3-piperidinyl]-6-(4-morpholinyl)-N-[3-(4-morpholinyl)propyl]-1,3,5-triazin-2-amine hydrochloride: mp (MeOH) 186-190° C.; 1H NMR (DMSO-d6) (rotamers) δ 10.65 and 10.43 (2br, 1H), 7.90 and 7.89 (2d, J=8.2, 8.1, Hz, 1H), 7.70 and 7.65 (2t, JHF=52.9, Hz, 1H), 7.46 and 7.39 (2t, J=8.3, 8.2 Hz, 1H), 6.96 (m, 1H), 4.75-4.66 and 4.51-4.44 (2m, 1H), 3.98 and 3.97 (2s, 3H), 3.98-3.59 (m, 16H), 3.46-3.24 (m, 2H), 3.18-2.85 (m, 5H), 2.92 (s, 3H), 2.73-2.67 (m, 1H), 2.09-1.89 (m, 6H); Anal. Calcd. for C29H42ClF2N9O5S.1.25H2O: C, 48.1; H, 6.2; N, 17.4; Cl, 4.9. Found: C, 47.9; H, 6.2; N, 17.3; Cl, 5.2%.

reactant | 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-[1-(methylsulfonyl)-3-piperidinyl]-6-(4-morpholinyl)-N-[3-(4-morpholinyl)propyl]-1,3,5-triazin-2-amine | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(CCCN1CCOCC1)C1CN(CCC1)S(=O)(=O)C)C=CC=C2OC)F | C29H41F2N9O5S
reactant | HCl | 1.25 M | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 1.1 equiv. | CO | CH4O
product | 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-[1-(methylsulfonyl)-3-piperidinyl]-6-(4-morpholinyl)-N-[3-(4-morpholinyl)propyl]-1,3,5-triazin-2-amine hydrochloride | Cl.FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(CCCN1CCOCC1)C1CN(CCC1)S(=O)(=O)C)C=CC=C2OC)F | InChI=1S/C29H41F2N9O5S.ClH/c1-43-23-8-3-7-22-24(23)32-26(25(30)31)40(22)29-34-27(37-14-18-45-19-15-37)33-28(35-29)39(11-5-9-36-12-16-44-17-13-36)21-6-4-10-38(20-21)46(2,41)42;/h3,7-8,21,25H,4-6,9-20H2,1-2H3;1H
